US08106190B2
By adding a hydrazine aqueous solution to a methanol-chloroform solution of 2-[3,3-dimethyl-2-oxo-4-(trifluoromethyl)-2,3-dihydro-1H-indol-6-yl]-1H-isoindol-1,3-(2H)-dione and carrying out the reaction at room temperature for 10 hours, 6-amino-3,3-dimethyl-4-(trifluoromethyl)-1,3-dihydro-2H-indol-2-one was obtained.

reactant | hydrazine | NN | H4N2
reactant | 2-[3,3-dimethyl-2-oxo-4-(trifluoromethyl)-2,3-dihydro-1H-indol-6-yl]-1H-isoindol-1,3-(2H)-dione | CC1(C(NC2=CC(=CC(=C12)C(F)(F)F)N1C(C2=CC=CC=C2C1=O)=O)=O)C | C19H13F3N2O3
solvent | methanol chloroform | CO.C(Cl)(Cl)Cl
product | 6-amino-3,3-dimethyl-4-(trifluoromethyl)-1,3-dihydro-2H-indol-2-one | NC1=CC(=C2C(C(NC2=C1)=O)(C)C)C(F)(F)F | C11H11F3N2O
